US08067445B2
Step 1: {2′-[(1-Ethyl-ureido)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
(2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.202 g, 0.51 mmol) and sodium cyanate (0.052 g, 0.77 mmol) were combined in H2O (2 mL). Acetic acid (0.04 mL, 0.77 mmol) was added, and the reaction was stirred for 1 hour. DMF (1 mL) was added to facilitate stirring, and the reaction was stirred for 1.5 hours. The solution was extracted with EtOAc, and the combined organic layers were dried and concentrated to give the title compound.

reactant | (2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.51 mmol, 0.202 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | sodium cyanate | 0.77 mmol, 0.052 g | [O-]C#N.[Na+]
reactant | Acetic acid | 0.77 mmol, 0.04 mL | C(C)(=O)O | C2H4O2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
product | {2′-[(1-Ethyl-ureido)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)N)CC)=O | C22H25F3N2O4
